US05177067
1.0 g of 2,4-dichlorophenyl 4'-bromomethyl-4-biphenylyl ketone and 20 mL of a 33 percent solution of dimethylamine in ethanol were heated to boiling for 4 hours, whereupon the mixture was evaporated. The residue was taken up in ether and treated with an ethereal solution of hydrogen chloride. The precipitated hydrochloride was filtered off and dried. There was obtained 2,4-dichlorophenyl 4'-[(dimethylamino)methyl]-4-biphenylyl ketone hydrochloride with a m.p. of 195°-196° C. Yield 51%.

reactant | 2,4-dichlorophenyl 4'-bromomethyl-4-biphenylyl ketone | 1.0 g | BrCC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)C1=C(C=C(C=C1)Cl)Cl | C20H13BrCl2O
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | C(C)O | C2H6O
product | 2,4-dichlorophenyl 4'-[(dimethylamino)methyl]-4-biphenylyl ketone hydrochloride | Yield 51% | Cl.CN(C)CC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)C1=C(C=C(C=C1)Cl)Cl | InChI=1S/C22H19Cl2NO.ClH/c1-25(2)14-15-3-5-16(6-4-15)17-7-9-18(10-8-17)22(26)20-12-11-19(23)13-21(20)24;/h3-13H,14H2,1-2H3;1H
